US06979693B2
A mixture of 2-(3-iodobenzoyl)acetonitrile (36.2 g, 133.5 mmol) and N,N-diphenylformamide (26.2 g, 133.5 mmol) in toluene (200 ml) was heated at reflux under a nitrogen atmosphere. After 8 h, the reaction mixture was cooled to room temperature and diluted with ether (200 ml) to give 2-(3-iodobenzoyl)-3-phenylaminoacrylonitrile (31.2 g) as a solid.

reactant | 2-(3-iodobenzoyl)acetonitrile | 133.5 mmol, 36.2 g | IC=1C=C(C(=O)CC#N)C=CC1 | C9H6INO
reactant | N,N-diphenylformamide | 133.5 mmol, 26.2 g | C1(=CC=CC=C1)N(C=O)C1=CC=CC=C1 | C13H11NO
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | 200 ml | CCOCC | C4H10O
product | 2-(3-iodobenzoyl)-3-phenylaminoacrylonitrile | 31.2 g | IC=1C=C(C(=O)C(C#N)=CNC2=CC=CC=C2)C=CC1 | C16H11IN2O
